US04594190
A solution of 11-(2-chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one (5 g) and N,N'-dimethylpiperazine (4 g) in acetonitrile (100 ml) was heated to reflux for 2 hours. The mixture was evaporated and the residue, crystallized from methanol, yielded 3 g (42.9%) of 11-[2-(4-methylpiperazin-1-yl)-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one N1 -chloromethylate melting at 198°-200° C.

reactant | 11-(2-chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 5 g | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | N,N'-dimethylpiperazine | 4 g | CN1CCN(CC1)C | C6H14N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 11-[2-(4-methylpiperazin-1-yl)-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 3 g, 42.9% | CN1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C19H21N5O2
